US09120749B2
tert-butyl (1-(5-((3-(cyclopropanecarbonyl)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-yl)amino)pyridin-2-yl)pyrrolidin-3-yl)(methyl)carbamate
Following general procedure M, tert-butyl (1-(5-((6-bromo-3-(cyclopropanecarbonyl)quinolin-4-yl)amino)pyridin-2-yl)pyrrolidin-3-yl)(methyl)carbamate (98 mg, 0.173 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (80 mg, 0.275 mmol) to afford the desired product (90 mg, 80%) as a brown solid. ESI MS m/z 647 [C34H35Cl2N5O4+H]+

reactant | tert-butyl (1-(5-((6-bromo-3-(cyclopropanecarbonyl)quinolin-4-yl)amino)pyridin-2-yl)pyrrolidin-3-yl)(methyl)carbamate | 0.173 mmol, 98 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=CC(=NC1)N1CC(CC1)N(C(OC(C)(C)C)=O)C | C28H32BrN5O3
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.275 mmol, 80 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | tert-butyl (1-(5-((3-(cyclopropanecarbonyl)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-yl)amino)pyridin-2-yl)pyrrolidin-3-yl)(methyl)carbamate | 90 mg, 80% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=CC(=NC1)N1CC(CC1)N(C(OC(C)(C)C)=O)C)C1=CC(=C(C(=C1)Cl)O)Cl | C34H35Cl2N5O4
